2118-10-09 09:25:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 year old male with ischemic CM (ef 15%) adm from [**Hospital 1188**] Hospital
   where he was admitted [**10-6**] with abd pain/jaundice from CBD stone, TB
   1.5-->5, and fevers. On Unasyn/flagyl for 2 days with bump in Cr to 1.7
   and drop in SBP. Transferred here for ERCP.
   24 Hour Events:
   *Transient drop in BP to ~70/40 though pt asx- recovered without
   obvious intervention
   *On arrival here, Plt dropped to 9 with elevated INR (plts were normal
   at OSH)
   Hapto normal, TB primarily DB
   History obtained from Medical records, ICU housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2118-10-9**] 01:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-10-9**] 08:22 AM
   Other medications:
   prn morphine
   Medications on transfer:
   Reglan 10mg IV q6h prn
   Flagyl 500mg IV q6h
   Morphine 3mg IV q2h prn
   Pantoprazole 40mg IV bid
   Unasyn 3g IV q6h (started [**10-6**])
   ASA 325mg PO daily
   Carvedilol 3.125mg [**Hospital1 **]
   Digoxin 0.125 daily
   Ibuprofen 600mg PO q6h prn
   Simvastatin 20mg daily
   Spironolactone 25mg [**Hospital1 **]
   Simethicone 80mg qid
   Changes to medical and family history:
   CAD s/p multiple MI's and stent
   Hep B Ab + but Ag negative
   PMH
   CAD; s/p multiple MIs ([**2112**] and [**2116**]) s/p stents
   Ischemic cardiomyopathy with EF 15% and severe MR s/p ICD
   s/p cholecystectomy
   Hyperlipidemia
   Anemia
   Peptic ulcer disease
   SH: on disability, prior tobacco abuse but not currently smoking
   FH non-contributory
   Review of systems:
   General: no fevers, chills, weight loss
   Eyes: no vision changes
   ENT: no cough/nosebleeds
   Skin:+pruritis, no rash
   CV: no CP, palpitation +2pillow orthopnea unchanged
   GI +abd pain, no diarrhea/constipation
   GU: no dysuria/hematuria
   Resp: no cough or hemoptysis
   Neuro: no seizures, headaches, numbness/tingling
   Psych: no anxiety/hallucinations
   Flowsheet Data as of  [**2118-10-9**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 91 (79 - 100) bpm
   BP: 87/55(63) {62/41(45) - 136/80(94)} mmHg
   RR: 13 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
             622 mL
   PO:
             TF:
   IVF:
   622 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                    325 mL
   Urine:
                                                                    150 mL
                                                                    225 mL
   NG:
   Stool:
   100 mL
   Drains:
   Balance:
                                                                   -150 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Sleeping but arousable, alert and conversant
   PERRL, EOMI
   HEENT: OP clear
   Neck No cervical LAD
   Lungs: decreased BS esp at apices with occasional exp wheezes
   CV: RRR, no M/G/R
   Abd: mildly distended, hypoactive bs, no guarding/rebound
   Ext: no calf tenderness or edema
   Peripheral Vascular: [**12-15**]+ DP and radial pulses
   Skin: n
l turgor, no rash
   Neuro: purposefull movements, n
l tone
   Labs / Radiology
   9.4 g/dL
   9 K/uL
   62 mg/dL
   2.2 mg/dL
   22 mEq/L
   3.3 mEq/L
   52 mg/dL
   95 mEq/L
   129 mEq/L
   30.8 %
   6.2 K/uL
        [image002.jpg]
                            [**2118-10-9**]  12:45 AM
                            [**2118-10-9**]  02:18 AM
                            [**2118-10-9**]  06:30 AM
   WBC
   7.1
   6.2
   Hct
   31.1
   33.3
   30.8
   Plt
   9
   7
   9
   Cr
   2.1
   2.4
   2.2
   Glucose
   83
   57
   62
   Other labs: PT / PTT / INR:17.8/36.0/1.6, ALT / AST:[**11-10**], Alk Phos / T
   Bili:102/11.1, Amylase / Lipase:107/12, Differential-Neuts:92.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, D-dimer:6170 ng/mL,
   Fibrinogen:557 mg/dL, Albumin:2.9 g/dL, LDH:181 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   48 yo male with CAD, [**Last Name (un) **] CM admitted with abd pain from retained CBD
   stone, intermittent episodes of hypotension. On arrival here he also
   has a new drop in platelet count, worsening renal function, +Hep B
   IgM
s. Hard to tie all these findings into one cohesive picture-
   possibilities include CBD stone/biliary sepsis or acute [**Last Name (un) **] both with
   med-induced thrombocytopenia. Given loose stools, renal insufficiency
   and severe thrombocytopenia HUS/TTP also of concern though course
   (developed mid-hospitliazation) is odd
   *Hypotension: BP has sporadically dropped though pt was without
   symptoms and BP spontaneously recovered. Concern that this could
   represent impending septic physiology. Continue antibiotics and hold
   beta-blocker/diuretics; cautious fluid resuscitation in light of
   cardiomyopathy
   *Cholangitis: ERCP planned potentially tomorrow; remains on Unasyn
   *Acute renal failure: Cr 1.1 at OSH and peaked as high as 2.7, though
   slightly down now. Could represent pre-renal picture given low BP
s and
   chronic low forward-flow. Will fluid resuscitate as needed, monitor I
   and O
   *Thrombocytopenia: Sudden drop over past couple days. Possibilites
   include TTS/HUS given concomittant renal failure and diarrhea (unusual
   timing as this would have evolved over several days while being
   hospitalized for obsturctive jaundice), medication reaction either
   heparin vs beta-lactams (course atypical for heparin with profound
   drop). Hemolysis labs so far
     Will obtain peripheral smear, request Hematologist consult, avoid use
   of heparin
  Cardiomyopathy: holding beta-blockers and diuretics given
   hypotension
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-10-8**] 09:58 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition : ICU
   Total time spent: 45
   Pt is critically ill

2118-10-10 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2118-10-9**] 02:24 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2118-10-10**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-10-9**] 08:00 PM
   Morphine Sulfate - [**2118-10-10**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-10-10**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 86 (84 - 104) bpm
   BP: 103/68(77) {68/53(57) - 108/83(120)} mmHg
   RR: 16 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  2,271 mL
                                                                    132 mL
   PO:
                                                                    620 mL
             TF:
   IVF:
                                                                  1,651 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    730 mL
   Urine:
                                                                    995 mL
                                                                    680 mL
   NG:
   Stool:
                                                                    100 mL
                                                                     50 mL
   Drains:
   Balance:
                                                                  1,176 mL
                                                                   -598 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   5 K/uL
   9.9 g/dL
   143 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.2 mEq/L
   39 mg/dL
   97 mEq/L
   128 mEq/L
   31.7 %
   6.7 K/uL
        [image002.jpg]
                            [**2118-10-9**]  12:45 AM
                            [**2118-10-9**]  02:18 AM
                            [**2118-10-9**]  06:30 AM
                            [**2118-10-9**]  03:19 PM
                            [**2118-10-10**]  01:58 AM
   WBC
   7.1
   6.2
   6.2
   6.7
   6.7
   Hct
   31.1
   33.3
   30.8
   34.1
   31.7
   Plt
   9
   7
   9
   5
   5
   Cr
   2.1
   2.4
   2.2
   1.5
   Glucose
   83
   57
   62
   143
   Other labs: PT / PTT / INR:17.1/37.2/1.6, ALT / AST:13/25, Alk Phos / T
   Bili:111/11.1, Amylase / Lipase:64/17, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6170 ng/mL,
   Fibrinogen:557 mg/dL, Albumin:2.9 g/dL, LDH:188 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O CARDIOMYOPATHY, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
   48 year-old male with a history of CAD and ischemic cardiomyopathy (EF
   15%) who presents with abdominal pain and jaundice with CBD dilatation
   on imaging.
   .
   # Hypotension:  Baseline SBPs per patient run 80s-90s.  BPs reportedly
   dipped to the 70s prior to transfer to [**Hospital1 19**] (asymptomatic) which he
   says does not infrequently happen.  SBPs currently low 90s.  Given his
   severe cardiomyopathy, suspect mainly in this setting.  Clearly given
   his fever and concern for retained obstructing gallstone, infectious
   cause is possible as well.
   - will hold diuretics, BB
   - small volume IVF back
   - treat underlying infection as below
   - send blood cultures
   .
   # Cholangitis:  Evidence of retained stone and CBD dilatation on OSH
   imaging.  Interestingly however, he is only mildly tender over RUQ
   rather the majority of his discomfort is mid abdomen.  No
   rebound/guarding.  T.bili with isolated elevation now to 11.5 (normal
   alk phos).
   - continue unasyn
   - will review OSH imaging with out radiologists
   - holding ASA pending ERCP
   - ERCP likely Monday if he remains clinically stable
   - serial abdominal exams
   .
   # ARF:  Unclear baseline, but creatinine 1.15 on initial presentation
   so suspect generally normal.  Creatinine had risen to 2.7 prior to
   transfer to [**Hospital1 19**] (repeat here pending).  Does appear mildly volume
   down, but bump in renal function seems out of proportion.  As above,
   does have low BPs at baseline with dip to the 70s at OSH, but seems
   less likely ATN.  More concerning in the setting of his
   thrombocytopenia and fever would be TTP-HUS.
   - f/u repeat creatinine here
   - adding on hemolysis labs
   - gentle IVFs
   .
   # Thrombocytopenia:  Differential includes platelet clumping, DIC,
   TTP-HUS, medication induced.  INR also climbing and given concern for
   sepsis, may be c/w DIC.  Concerning, however, is also his concomitant
   bump in renal function in conjunction with fever which might suggest
   TTP/HUS.  Unclear whether he received SC heparin at OSH, but likely
   used there for prophylaxis.  Platelets yesterday at OSH were in the
   250s and seems less c/w HIT.  He was transferred on a PPI which can
   cause thrombocytopenia however he was taking a PPI as an outpatient
   without difficulty prior to admission.
   - send yellow top to eval for clumping
   - checking hemolysis labs, peripheral smear
   - sending DIC panel
   - reviewing peripheral smear
   .
   # Hyponatremia:  Does not appear volume overloaded on exam, rather
   appears mildly down.  Thus, may represent hypovolemic hyponatremia.
   - checking urine lytes
   - holding diuretics overnight
   - gentle IVFs with repeat check
   .
   # Ischemic cardiomyopathy:  Currently appears well compensated.
   - holding antihypertensive meds and diuretics overnight d/t relative
   hypotension and hyponatremia
   .
   # CAD: Holding BB given above, holding ASA for ERCP, holding statin d/t
   LFT abnormalities.
   .
   # Hyperlipidemia:  Holding statin as above.
   .
   # Anemia:  Unclear baseline.  Hct currently 31 with low MCV and
   elevated RDW.
   - continue to trend hct
   - checking hemolysis labs
   - guaiac stools
   - check iron studies, b12, folate, retic
   .
   # PUD:  Given pt was on PPI as outpatient at which time platelets were
   normal, seems very unlikely cause.
   - continue PPI
   .
   # FEN:  NPO-->clears.
   .
   # Access:  PIVs.
   .
   # PPx:  PPI, Venodynes.
   .
   # Code:  FULL
   .
   # Dispo:  ICU care.
   .
   # Comm:  Sister [**Name (NI) 3050**] [**Name (NI) 3051**] [**Telephone/Fax (1) 3052**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-10-10**] 01:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-10-10 16:50:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 y.o. man with ischemic cardiomyopathy (EF 15%) admitted from [**Hospital 1188**]
   Hospital with picture suggestive of obstuctive cholangitis for possible
   ERCP.
   Total time spent 40 minutes.
   24 Hour Events:
   Now hemodynamically stable, not requiring further volume resusitation.
   Platlets continue to drop, < 5K
   HCT remains 31 - 33, no transfusions
   Started on oral prednision for presumed ITP
                               History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2118-10-10**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-10-9**] 08:00 PM
   Morphine Sulfate - [**2118-10-10**] 08:00 AM
   Other medications:
   prednison 60  mg orally q day
   benadryl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Integumentary (skin): multiple excoriations from scratching
   Pain: [**12-15**] Minimal
   Flowsheet Data as of  [**2118-10-10**] 04:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.7
C (96.3
   HR: 105 (85 - 115) bpm
   BP: 99/75(81) {68/24(50) - 117/83(144)} mmHg
   RR: 29 (12 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 53 Inch
             Total In:
                                                                  2,271 mL
                                                                    592 mL
   PO:
                                                                    620 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,651 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                  1,080 mL
   Urine:
                                                                    995 mL
                                                                  1,030 mL
   NG:
   Stool:
                                                                    100 mL
                                                                     50 mL
   Drains:
   Balance:
                                                                  1,176 mL
                                                                   -488 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: mild RUQ > LUQ, no
   rebound
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, excoriations over upper extremities secondary to
   scratching
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   9 K/uL
   126 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.8 mEq/L
   36 mg/dL
   101 mEq/L
   134 mEq/L
   33.9 %
   7.1 K/uL
        [image002.jpg]
                            [**2118-10-9**]  12:45 AM
                            [**2118-10-9**]  02:18 AM
                            [**2118-10-9**]  06:30 AM
                            [**2118-10-9**]  03:19 PM
                            [**2118-10-10**]  01:58 AM
                            [**2118-10-10**]  01:56 PM
   WBC
   7.1
   6.2
   6.2
   6.7
   6.7
   7.1
   Hct
   31.1
   33.3
   30.8
   34.1
   31.7
   33.9
   Plt
   9
   7
   9
   5
   5
   9
   Cr
   2.1
   2.4
   2.2
   1.5
   1.2
   Glucose
   83
   57
   62
   143
   126
   Other labs: PT / PTT / INR:17.1/37.2/1.6, ALT / AST:13/25, Alk Phos / T
   Bili:111/11.1, Amylase / Lipase:64/17, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6170 ng/mL,
   Fibrinogen:557 mg/dL, Albumin:2.9 g/dL, LDH:188 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Likely due to
   relative dehydration and hypotension.  Cr improving to 1.5 (baseline
   reportedly 1.1). Monitoring urine output.  Have been holding diuretics
   but plan to restart.
 LIVER FUNCTION ABNORMALITIES:  Picture most consitent with late phase
   Hep A given positive IgM.  Total bili 11.1.  Trend liver enzymes on
   prednisone. Liver service following along.
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS): Pain and jaundice
   persist.  Anticipate MRCP later today.
 .H/O CARDIOMYOPATHY, OTHER:  Had been on digoxin, beta blocker,
   spironolactone and lasix as an outpatient.  Unclear why no afterload
   reduction therapy.  Gently diruesis with lasix.  Watch hyponatremia in
   the setting of volume overload.
 .H/O HYPOTENSION (NOT SHOCK):  Resovled following volume
   resusitation.  Continues antibiotics for possible cholangitis/sepsis.
   Cultures pending.  Will follow-up with [**Hospital 1188**] Hospital fro culture
   results.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2118-10-10**] 01:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: